US09283555B2
N′-(2-ethylphenyl)-N-(2-ethylphenyl)-N-(diisopropylphosphino)acetamidine (NSP Amidine I)
N′-(2-ethylphenyl)-N-(2-ethylphenyl)acetamidine (NS Amidine I) (0.798 g, 3.0 mmol) was dissolved in 50 mL of diethylether and cooled to 0° C. Butyllithium (1.50 mL of 2.0 M solution in pentane, 3.0 mmol) was added dropwise, producing a light yellow solution. The solution was warmed to room temperature and stirred for 2 hours. Chlorodiisopropylphosphine (0.48 mL, 3.0 mmol) was added slowly at room temperature. A white suspension formed, which was stirred overnight at room temperature. The slurry was filtered to remove a small amount of white solid, presumably lithium chloride, and the solvent was removed in vacuo to produce 1.14 g (99%) of yellow oil.

reactant | N′-(2-ethylphenyl)-N-(2-ethylphenyl)acetamidine | 3.0 mmol, 0.798 g | C(C)C1=C(C=CC=C1)N=C(C)NC1=C(C=CC=C1)CC | C18H22N2
reactant | Butyllithium | 3.0 mmol, 2.0 M, 1.50 mL | C(CCC)[Li]
reactant | Chlorodiisopropylphosphine | 3.0 mmol, 0.48 mL | ClP(C(C)C)C(C)C | C6H14ClP
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
product | N′-(2-ethylphenyl)-N-(2-ethylphenyl)-N-(diisopropylphosphino)acetamidine | 1.14 g, 99% | C(C)C1=C(C=CC=C1)N=C(C)N(P(C(C)C)C(C)C)C1=C(C=CC=C1)CC | C24H35N2P
